Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
cardiac catheterization

 
History of Present Illness:
___ w/ PMH of CAD s/p PCI x3, s/p off-pump CABG x3 ___ 
(___-->LAD, SVG -->diag, OM), type 2 DM on insulin, HTN, 
hyperlipidemia presents with a 3 day history of ___ sharp, 
left-sided chest pain and SOB. She describes the chest pain as 
"pinching all the way down to the bone." She endorses ___ 
episodes of pain/day, always at rest. The episodes of pain last 
approximately 5 minutes and are relieved by nitroglycerin. Her 
pain is not worsened by exertion or eating. She described her 
symptoms to her PCP over the phone, who told her to come to the 
ED. She says they feel similar to her MI in the past. She also 
endorsed vomiting last night. She denies any diaphoresis. She 
also endorses a cough.  
The patient has developed increased shortness of breath over the 
past few days. She has experienced orthopnea for the past few 
years, but denies PND and lower extremity edema. On exam in the 
ED she was tachycardic, in a regular rhythm. Lungs were CTAB. 
She had trace edema in her left lower extremity, none in her 
right leg.  
 
In the ED, initial vitals were 96.8 111 177/86 18 97%. Labs and 
imaging significant for a CXR with new moderate left pleural 
effusion with adjacent atelectasis in the left lung base, CBC 
within normal limits, electrolytes within normal limits, Cr. 
1.2, troponin 0.08 and D-dimer 2350. A CT of the chest was 
performed, which showed no CT evidence for pulmonary embolus, 
but small left pleural effusion with adjacent atelectasis.  
Patient given aspirin 81mg x 4, SL nitroglycerin x 1 and heparin 
bolus.  
Vitals on transfer were 99.2 112 162/82 22 98% RA  
On arrival to the floor, patient is AAOx3, and comfortable.  
 
REVIEW OF SYSTEMS  
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. She denies recent fevers, chills or 
rigors. She denies exertional buttock or calf pain. All of the 
other review of systems were negative.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: (-)Diabetes, (+)Dyslipidemia, (+)HTN  
2. CARDIAC HISTORY:  
-Coronary artery disease  
-Diastolic congestive heart failure  
-CABG: CABG x 3 (Off pump coronary artery bypass graft x3, left  

internal mammary artery to left anterior descending artery and  
saphenous vein grafts to diagonal, and obtuse marginal arteries) 
 
-PERCUTANEOUS CORONARY INTERVENTIONS: BMS to proximal LAD  
___, DES to mid LAD ___, DES to edge ISR of mid LAD DES and  
stenosis distal to stent ___, DES to OM1, ___  
-PACING/ICD:none  
Morbid obesity.  
COPD  
GERD  
Right rotator cuff injury/bursitis  
Migraines  
Depression  
DJD  
Hemorrhoids  
Rosacea  

 
Social History:
___
Family History:
She was a ward of the ___ and does not know her family.  

 
Physical Exam:
Admission:
VS- T 99.4 BP 157/88 HR 118 RR 24 96% RA  
GENERAL- WDWN F in NAD. Oriented x3. Mood, affect appropriate.  
HEENT- NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK- Supple without JVP  
CARDIAC- PMI located in ___ intercostal space, midclavicular 
line. RRR Nl S1/S2. Midline scar from recent surgery C/D/I  
LUNGS - No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN- Soft, NTND. No HSM or tenderness.  
EXTREMITIES- No c/c/e. 

Discharge:
Vitals: T:98.4 BP:151/90 P:86 R:20 O2:97 RA  
I/O: Intake: 840 mL; Output: Voided x2 (not recorded) 
GENERAL - Alert, interactive, well-appearing in NAD  
HEENT - PERRLA, EOMI, sclerae anicteric, dry mucous membranes, 
OP clear, no JVP visualized   
HEART - RRR, nl S1-S2, no MRG. Scar from recent surgery present 
at midline. Wound is healing well, no tenderness along scar. 
Slight erythema at base. A 2 cm area of newer scar is present 
from previous debridement as reported per patinent.    
LUNGS - Bibasilar crackles present at bases. No wheezes or 
rhonci. Respirations unlabored.  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses  
NEURO - awake, A&Ox3, CNs II-XII grossly intact  
 
Pertinent Results:
Admission labs:
___ 03:45PM   WBC-8.9 RBC-3.69* HGB-12.3 HCT-34.9* MCV-95 
MCH-33.2* MCHC-35.1* RDW-13.1
___ 03:45PM   NEUTS-67.9 ___ MONOS-5.5 EOS-2.6 
BASOS-0.9
___ 03:45PM   GLUCOSE-484* UREA N-16 CREAT-1.2* SODIUM-135 
POTASSIUM-3.7 CHLORIDE-95* TOTAL CO2-26 ANION GAP-18
___ 04:25PM   ___ PTT-27.8 ___
___ 03:45PM   cTropnT-0.08*
___ 03:45PM   CK(CPK)-51
___ 03:45PM   D-DIMER-2350*

Pertinent labs:
___ 03:45PM BLOOD cTropnT-0.08*
___ 12:09AM BLOOD CK-MB-3 cTropnT-0.12*
___ 07:15AM BLOOD CK-MB-3 cTropnT-0.13*

Imaging/studies:
EKG on admission- Sinus tachycardia. Extensive ST segment 
changes may be due to ischemia. Compared to the previous tracing 
no change.  

CXR ___- New moderate left pleural effusion with adjacent 
atelectasis in the left lung base. 
  
CTA Chest ___.  No CT evidence for pulmonary embolus. 
2.  Small left pleural effusion with adjacent atelectasis.  
3.  Possible calcified splenic artery aneurysm in the region of 
the hilum. 

Cardiac catheterization ___. Selective coronary angiography of this right dominant system 
demonstrated 2 vessel coronary disease in the native vessels.  
The ___ 
had no angiographically apparent disease.  The LAD had a 70% 
lesion in a 
prior stent, and a jailed diagnoal which was small and had poor 
flow. 
The LCx had a 70-80% stenosis at its origin.  The RCA had no 
angiographically apparent disease. 
2. Arterial conduit angiography demonstrated the LIMA graft to 
be 
patent. 
3. Venous conduit angiography demonstrated a patent SVG to OM 
with 
retrograde stenosis involving a small sub-branch of the OM.  The 
SVG to 
small diagonal was presumed occluded and unable to be 
identified. 
4. Limited resting hemodynamics revealed systemic hypertension 
with 
aortic pressure of 184/105 mm Hg. 
  FINAL DIAGNOSIS:     
1. Two vessel coronary artery disease in the native arteries 
2. Patent LIMA to LAD, patent SVG to OM, occluded SVG to small 
diagonal 
branch. 

 
Brief Hospital Course:
___ year old female with a history of CAD s/p PCI x3, s/p CABG x3 
(___), type 2 DM on insulin, HTN, and HLD who presented with 
a 3 day history of left sided chest pain and SOB.  

# Chest Pain- Patient with significant CAD history, s/p recent 
CABG, presenting with chest pain and rising troponins, with new 
ST depressions inferiorly in V4-V6, consistent with NSTEMI.  
Patient's troponins plateaued at 0.13.  She has initiated on a 
heparin gtt in the ED, and was taken to cardiac cath the 
following morning.  Catheterization showed occlusion of the SVG 
to the diagonal, possibly causing her current symptoms.  No 
intervention was performed.  Patient was medically optimized 
with increased metoprolol, initiation of losartan, and 
initiation of imdur.  Other potential causes of her chest pain 
were considered including PE (ruled out with negative CTA), 
pericarditis (symptoms consistent, but exam and EKG not 
consistent, also patient has been essentially treated as she has 
been taking consistent NSAIDs), costochondritis (symptoms 
intermittently reproducible on exam), or pleuritis secondary to 
pleural effusion (very small effusion, stable since CABG).  
   If pain persists, patient was instructed to speak with her 
cardiologist about increasing imdur should her blood pressure 
tolerate.  
  
# Acute renal insufficiency- On admission, creatinine elevated 
to 1.2, likely due to dehydration, as creatinine improved 
overnight with gentle fluids and remained stable. 

# COPD- Continued on home inhalers (albuterol, fluticasone)

# DM- Continued with glargine 50 units Q6 and ISS  

# HLD- Continued on home atorvastatin 

# GERD- Continued on home pantoprazole

# Transitional issues-
- NEW MEDICATIONS- losartan and imdur
- MEDICATION CHANGES- metoprolol increased to 50mg po TID (from 
25 TID)
- if ongoing chest pain, consider titrating up on imdur if c/w 
anginal pain.   Also may consider treating for costochondritis 
and pericarditis
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
2. Atorvastatin 40 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Fluticasone Propionate 110mcg 2 PUFF IH BID 
5. Glargine 50 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
6. Metoprolol Tartrate 25 mg PO TID 
Hold for SBP <100, HR<60 
7. Metrogel *NF* (metroNIDAZOLE) 0.75%  Topical Daily 
8. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN severe 
pain 
9. Pantoprazole 80 mg PO Q24H 
10. Ropinirole 0.25 mg PO QPM 
11. Aspirin 325 mg PO DAILY 
12. Vitamin D 1000 UNIT PO DAILY 
13. Ibuprofen 600 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
2. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
4. Glargine 50 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
5. Metoprolol Tartrate 50 mg PO TID 
RX *metoprolol tartrate 50 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*0
6. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
7. Ropinirole 0.25 mg PO QPM 
8. Vitamin D 1000 UNIT PO DAILY 
9. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
10. Metrogel *NF* (metroNIDAZOLE) 0.75%  Topical Daily 
11. Oxycodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN severe 
pain 
12. Losartan Potassium 25 mg PO DAILY 
RX *losartan 25 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
13. Clopidogrel 75 mg PO DAILY 
14. Fluticasone Propionate 110mcg 2 PUFF IH BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
non-ST elevation MI
coronary artery disease

Secondary:
diabetes mellitus type 2
hypertension
hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you during your recent 
admission to ___.

You were admitted with chest pain/pressure concerning for a 
heart attack.  A cardiac catheterization showed that one of your 
grafts from your recent cardiac bypass surgery is clotted and no 
longer working, potentially causing your symptoms.  

We have increased and added medications to control your 
symptoms.  The changes are below:
START losartan
START isosorbide mononitrate
INCREASE atorvastatin
INCREASE metoprolol
DECREASE aspirin
DECREASE pantoprazole
STOP ibuprofen (you were taking too much. take tylenol ___ for 
pain)

Once you leave the hospital, we recommend further workup of a 
fluid collection seen around your left lung and better 
management of your diabetes with the help of your PCP.
 
Followup Instructions:
___